US07531533B2
Synthesis of (benzo[b]thiophen-5-yl-)magnesium bromide (Compound No. MG01) (Preparation method mr-01)
A solution of magnesium (34 mg, WAKO) in dehydrated THF (0.7 ml) was added dropwise with a solution of 5-bromobenzo[b]thiophene (149.2 mg, MAYB) and dibromoethane (30 μl, WAKO) in dehydrated THF (0.7 ml) under an argon atmosphere, and the mixture was stirred at room temperature for 2 hours to obtain a THF solution of the title compound (Compound No. MG01).

reactant | magnesium | 34 mg | [Mg] | Mg
reactant | 5-bromobenzo[b]thiophene | 149.2 mg | BrC1=CC2=C(SC=C2)C=C1 | C8H5BrS
reactant | dibromoethane | 30 μl | BrC(C)Br | C2H4Br2
solvent | THF | 0.7 ml | C1CCOC1 | C4H8O
solvent | THF | 0.7 ml | C1CCOC1 | C4H8O
product | (benzo[b]thiophen-5-yl-)magnesium bromide | S1C2=C(C=C1)C=C(C=C2)[Mg]Br | InChI=1S/C8H5S.BrH.Mg/c1-2-4-8-7(3-1)5-6-9-8;;/h2-6H;1H;/q;;+1/p-1
